### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Single.lean [hunk 1]
```diff
@@ -101,7 +100,9 @@ theorem support_single_ne_zero (a : α) (hb : b ≠ 0) : (single a b).support =
   if_neg hb
 
 theorem support_single_subset : (single a b).support ⊆ {a} := by
-  classical show ite _ _ _ ⊆ _; split_ifs <;> [exact empty_subset _; exact Subset.refl _]
+  classical
```
Comment (grunweg) [inline Mathlib/Data/Finsupp/Single.lean:103]: I'm not sure if mathlib style is to indent subsequent lines, but I don't mind it either, so :shrug:

**Review by grunweg — COMMENTED** [review]
Very nice work, as usual. Thanks for doing this!
maintainer merge

File: Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean [hunk 2]
```diff
@@ -383,7 +383,9 @@ def toCLMNonUnitalAlgHom [Fintype n] :
     map_zero' := by simp
     map_mul' := by
       intros
-      simp [← MulOpposite.op_mul]
+      simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, LinearMap.coe_comp,
```
Comment (urkud) [inline Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean:386]: Should it be `simp? says`?

**Comment by urkud** [comment]
Please have a look at the 2 comments above. Thanks!
bors d+

File: Mathlib/Data/Finsupp/Single.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Finsupp/Single.lean:103]: Good catch, thanks

File: Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Analysis/CStarAlgebra/CStarMatrix.lean:386]: I think I'll leave it; it doesn't seem too bad
